US06569863B1
(b). 5-Ethyloxycarbonyl-2-methylthio-4-phenyl-6-oxopyrimidine
A mixture of 5-ethyloxycarbonyl-2-methylthio-4-phenyl-4,5-dihydro-6-oxopyrimidine (273 mg) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (200 mg) in isopropanol (5 ml) was stirred for 16 h. The reaction mixture was evaporated to dryness, the residue was dissolved in dichloromethane and stirred with 5% sodium thiosulfate for 5 min. The organic layer was washed with 5% sodium bicarbonate and water (2×), dried over sodium sulfate and evaporated to dryness. The pure title compound was obtained after chromatography on silicagel in dichloromethane/methanol 98/2 (v/v) as eluent.

reactant | 5-ethyloxycarbonyl-2-methylthio-4-phenyl-4,5-dihydro-6-oxopyrimidine | 273 mg | C(C)OC(=O)C1C(N=C(NC1=O)SC)C1=CC=CC=C1 | C14H16N2O3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 200 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 5-Ethyloxycarbonyl-2-methylthio-4-phenyl-6-oxopyrimidine | C(C)OC(=O)C1=C(N=C(NC1=O)SC)C1=CC=CC=C1 | C14H14N2O3S
